US05006511
N-Benzyloxycarbonyl phenylalanine methyl ester is reduced with DIBAL to the aldehyde using the procedure of Boger et al., J. Med. Chem. (1985) 28, 1779, which is homologated with the sodio derivative of trimethyl phosphonoacetate using the procedure of Wadsworth and Emmons, Org. Synth. (1965) 45, 44 to give methyl 4-(benzyloxycarbonyl)amino-5-phenyl-2-pentenoate.

reactant | N-Benzyloxycarbonyl phenylalanine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H19NO4
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl 4-(benzyloxycarbonyl)amino-5-phenyl-2-pentenoate | C(C1=CC=CC=C1)OC(=O)NC(C=CC(=O)OC)CC1=CC=CC=C1 | C20H21NO4
